* /Users/manoelribeiroalmeida/dev/trit/LTspice/TNOT.asc
.subckt TNOT in vcc vee out gnd
R4 N002 in 100k
R5 out 0 100k
Q1 out N002 vcc 0 PNP
R6 N001 in 100k
Q2 out N001 vee 0 NPN
.model NPN NPN
.model PNP PNP
.lib /Users/manoelribeiroalmeida/Library/Application Support/LTspice/lib/cmp/standard.bjt
.backanno
.ends
